US06313126B1
8-(4-benzyl-piperazin-1-yl)-6-bromo-quinoline
The free base of bis(2-chloroethyl)-benzlyamine (5.12 g, 19.3 mmol) was prepared by washing the HCl salt with 1 M NaOH (200 mL) and extracting into EtOAc. The resulting organic phases were dried over NASO4 and concentrated. To this flask was added 6-bromo-8-amino-quinoline (2.15 g, 9.6 mmol), n-BuOH (100 mL), and Et3N (4 mL, 28.9 mmol). The resulting reaction mixture was stirred at 100° C. overnight. TLC analysis showed starting amine was still present, therefore an additional portion of bis(2-chloroethyl)-benzylamine hydrochloride (5 g) was added. The reaction was heated an additional 72 hours. The cooled reaction mixture was quenched with 1 M NaOH (200 mL) and extracted into EtOAc (3×200 mL). The organic fractions were combined, dried over Na2SO4, and concentrated. The resulting gold oil was purified three times by column chromatography (40% EtOAc/hexanes) affording 1.2 g (33%) of a viscous orange oil which solidified upon standing: mp 65-68° C., MS (+) APCI m/z 382 [M+H]+.

reactant | 6-bromo-8-amino-quinoline | 9.6 mmol, 2.15 g | BrC=1C=C2C=CC=NC2=C(C1)N | C9H7BrN2
reactant | Et3N | 28.9 mmol, 4 mL | CCN(CC)CC | C6H15N
reactant | bis(2-chloroethyl)-benzylamine hydrochloride | 5 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
solvent | n-BuOH | 100 mL | CCCCO | C4H10O
product | 8-(4-benzyl-piperazin-1-yl)-6-bromo-quinoline | 1.2 g, 33% | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=C2C=CC=NC12)Br | C20H20BrN3
